* Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\sim_DFFwidth.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map PORB 11
.node_map CLK 10
.node_map GND 12
.node_map IN 9
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000

X$DFFwidth 9 10 11 DFFwidth

X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\nesto\301a\design\DFFwidth.sxcmp
.subckt DFFwidth 762 763 764
*#hierarchy
.node_map BUS44$7 737
.node_map BUS32$2 540
.node_map BUS23$7 401
.node_map BUS15$4 270
.node_map BUS45$0 746
.node_map BUS44$8 738
.node_map BUS32$3 541
.node_map BUS24$0 410
.node_map BUS23$8 402
.node_map BUS15$5 271
.node_map BUS45$1 747
.node_map BUS44$9 739
.node_map BUS32$4 542
.node_map BUS24$1 411
.node_map BUS23$9 403
.node_map BUS15$6 272
.node_map BUS45$2 748
.node_map BUS32$5 543
.node_map BUS24$2 412
.node_map BUS15$7 273
.node_map PORB 764
.node_map BUS45$3 749
.node_map BUS32$6 544
.node_map BUS24$3 413
.node_map BUS16$0 282
.node_map BUS15$8 274
.node_map BUS45$4 750
.node_map BUS32$7 545
.node_map BUS24$4 414
.node_map BUS16$1 283
.node_map BUS15$9 275
.node_map BUS1$10 52
.node_map BUS45$5 751
.node_map BUS33$0 554
.node_map BUS32$8 546
.node_map BUS24$5 415
.node_map BUS16$2 284
.node_map BUS1$11 53
.node_map BUS45$6 752
.node_map BUS33$1 555
.node_map BUS32$9 547
.node_map BUS24$6 416
.node_map BUS21$10 372
.node_map BUS16$3 285
.node_map BUS9$10 180
.node_map BUS1$12 54
.node_map BUS45$7 753
.node_map BUS33$2 556
.node_map BUS24$7 417
.node_map BUS21$11 373
.node_map BUS16$4 286
.node_map BUS9$11 181
.node_map BUS1$13 55
.node_map BUS45$8 754
.node_map BUS33$3 557
.node_map BUS29$10 500
.node_map BUS25$0 426
.node_map BUS24$8 418
.node_map BUS21$12 374
.node_map BUS16$5 287
.node_map BUS9$12 182
.node_map BUS1$14 56
.node_map BUS45$9 755
.node_map BUS33$4 558
.node_map BUS29$11 501
.node_map BUS25$1 427
.node_map BUS24$9 419
.node_map BUS21$13 375
.node_map BUS16$6 288
.node_map BUS9$13 183
.node_map BUS4$10 100
.node_map BUS1$15 57
.node_map BUS33$5 559
.node_map BUS29$12 502
.node_map BUS25$2 428
.node_map BUS21$14 376
.node_map BUS16$7 289
.node_map BUS9$14 184
.node_map BUS4$11 101
.node_map BUS33$6 560
.node_map BUS29$13 503
.node_map BUS25$3 429
.node_map BUS24$10 420
.node_map BUS21$15 377
.node_map BUS17$0 298
.node_map BUS16$8 290
.node_map BUS9$15 185
.node_map BUS4$12 102
.node_map RCLK 765
.node_map BUS33$7 561
.node_map BUS29$14 504
.node_map BUS25$4 430
.node_map BUS24$11 421
.node_map BUS17$1 299
.node_map BUS16$9 291
.node_map BUS4$13 103
.node_map BUS34$0 570
.node_map BUS33$8 562
.node_map BUS29$15 505
.node_map BUS25$5 431
.node_map BUS24$12 422
.node_map BUS17$2 300
.node_map BUS4$14 104
.node_map BUS34$1 571
.node_map BUS33$9 563
.node_map BUS25$6 432
.node_map BUS24$13 423
.node_map BUS17$3 301
.node_map BUS7$10 148
.node_map BUS4$15 105
.node_map BUS1$0 42
.node_map BUS34$2 572
.node_map BUS25$7 433
.node_map BUS24$14 424
.node_map BUS17$4 302
.node_map BUS7$11 149
.node_map BUS1$1 43
.node_map BUS34$3 573
.node_map BUS27$10 468
.node_map BUS26$0 442
.node_map BUS25$8 434
.node_map BUS24$15 425
.node_map BUS17$5 303
.node_map BUS7$12 150
.node_map BUS1$2 44
.node_map BUS34$4 574
.node_map BUS27$11 469
.node_map BUS26$1 443
.node_map BUS25$9 435
.node_map BUS17$6 304
.node_map BUS7$13 151
.node_map BUS2$10 68
.node_map BUS1$3 45
.node_map BUS34$5 575
.node_map BUS27$12 470
.node_map BUS26$2 444
.node_map BUS17$7 305
.node_map BUS7$14 152
.node_map BUS2$11 69
.node_map BUS1$4 46
.node_map BUS34$6 576
.node_map BUS27$13 471
.node_map BUS26$3 445
.node_map BUS22$10 388
.node_map BUS18$0 314
.node_map BUS17$8 306
.node_map BUS7$15 153
.node_map BUS2$12 70
.node_map BUS1$5 47
.node_map BUS34$7 577
.node_map BUS27$14 472
.node_map BUS26$4 446
.node_map BUS22$11 389
.node_map BUS18$1 315
.node_map BUS17$9 307
.node_map BUS2$13 71
.node_map BUS1$6 48
.node_map BUS41$10 692
.node_map BUS35$0 586
.node_map BUS34$8 578
.node_map BUS27$15 473
.node_map BUS26$5 447
.node_map BUS22$12 390
.node_map BUS18$2 316
.node_map BUS2$14 72
.node_map BUS1$7 49
.node_map BUS41$11 693
.node_map BUS35$1 587
.node_map BUS34$9 579
.node_map BUS26$6 448
.node_map BUS22$13 391
.node_map BUS18$3 317
.node_map BUS5$10 116
.node_map BUS2$15 73
.node_map BUS2$0 58
.node_map BUS1$8 50
.node_map BUS41$12 694
.node_map BUS35$2 588
.node_map BUS26$7 449
.node_map BUS22$14 392
.node_map BUS18$4 318
.node_map BUS5$11 117
.node_map BUS2$1 59
.node_map BUS1$9 51
.node_map BUS41$13 695
.node_map BUS35$3 589
.node_map BUS27$0 458
.node_map BUS26$8 450
.node_map BUS25$10 436
.node_map BUS22$15 393
.node_map BUS18$5 319
.node_map BUS5$12 118
.node_map BUS2$2 60
.node_map BUS41$14 696
.node_map BUS35$4 590
.node_map BUS27$1 459
.node_map BUS26$9 451
.node_map BUS25$11 437
.node_map BUS18$6 320
.node_map BUS5$13 119
.node_map BUS2$3 61
.node_map BUS44$10 740
.node_map BUS41$15 697
.node_map BUS35$5 591
.node_map BUS27$2 460
.node_map BUS25$12 438
.node_map BUS18$7 321
.node_map BUS5$14 120
.node_map BUS2$4 62
.node_map BUS44$11 741
.node_map BUS35$6 592
.node_map BUS27$3 461
.node_map BUS25$13 439
.node_map BUS20$10 356
.node_map BUS19$0 330
.node_map BUS18$8 322
.node_map BUS8$10 164
.node_map BUS5$15 121
.node_map BUS2$5 63
.node_map BUS44$12 742
.node_map BUS35$7 593
.node_map BUS27$4 462
.node_map BUS25$14 440
.node_map BUS20$11 357
.node_map BUS19$1 331
.node_map BUS18$9 323
.node_map BUS8$11 165
.node_map BUS2$6 64
.node_map BUS44$13 743
.node_map BUS36$0 602
.node_map BUS35$8 594
.node_map BUS28$10 484
.node_map BUS27$5 463
.node_map BUS25$15 441
.node_map BUS20$12 358
.node_map BUS19$2 332
.node_map BUS8$12 166
.node_map BUS2$7 65
.node_map BUS44$14 744
.node_map BUS36$1 603
.node_map BUS35$9 595
.node_map BUS28$11 485
.node_map BUS27$6 464
.node_map BUS20$13 359
.node_map BUS19$3 333
.node_map BUS8$13 167
.node_map BUS3$10 84
.node_map BUS3$0 74
.node_map BUS2$8 66
.node_map BUS44$15 745
.node_map BUS36$2 604
.node_map BUS28$12 486
.node_map BUS27$7 465
.node_map BUS20$14 360
.node_map BUS19$4 334
.node_map BUS8$14 168
.node_map BUS3$11 85
.node_map BUS3$1 75
.node_map BUS2$9 67
.node_map BUS36$3 605
.node_map BUS28$13 487
.node_map BUS28$0 474
.node_map BUS27$8 466
.node_map BUS23$10 404
.node_map BUS20$15 361
.node_map BUS19$5 335
.node_map BUS8$15 169
.node_map BUS3$12 86
.node_map BUS3$2 76
.node_map BUS36$4 606
.node_map BUS28$14 488
.node_map BUS28$1 475
.node_map BUS27$9 467
.node_map BUS23$11 405
.node_map BUS19$6 336
.node_map BUS3$13 87
.node_map BUS3$3 77
.node_map BUS42$10 708
.node_map BUS36$5 607
.node_map BUS28$15 489
.node_map BUS28$2 476
.node_map BUS23$12 406
.node_map BUS19$7 337
.node_map BUS3$14 88
.node_map BUS3$4 78
.node_map BUS42$11 709
.node_map BUS36$6 608
.node_map BUS28$3 477
.node_map BUS23$13 407
.node_map BUS19$8 338
.node_map BUS6$10 132
.node_map BUS3$15 89
.node_map BUS3$5 79
.node_map BUS42$12 710
.node_map BUS36$7 609
.node_map BUS28$4 478
.node_map BUS23$14 408
.node_map BUS19$9 339
.node_map BUS6$11 133
.node_map BUS3$6 80
.node_map BUS42$13 711
.node_map BUS37$0 618
.node_map BUS36$8 610
.node_map BUS28$5 479
.node_map BUS26$10 452
.node_map BUS23$15 409
.node_map BUS6$12 134
.node_map BUS3$7 81
.node_map BUS42$14 712
.node_map BUS37$1 619
.node_map BUS36$9 611
.node_map BUS28$6 480
.node_map BUS26$11 453
.node_map BUS6$13 135
.node_map BUS4$0 90
.node_map BUS3$8 82
.node_map BUS45$10 756
.node_map BUS42$15 713
.node_map BUS37$2 620
.node_map BUS28$7 481
.node_map BUS26$12 454
.node_map BUS6$14 136
.node_map BUS4$1 91
.node_map BUS3$9 83
.node_map BUS45$11 757
.node_map BUS37$3 621
.node_map BUS29$0 490
.node_map BUS28$8 482
.node_map BUS26$13 455
.node_map BUS6$15 137
.node_map BUS4$2 92
.node_map BUS45$12 758
.node_map BUS37$4 622
.node_map BUS29$1 491
.node_map BUS28$9 483
.node_map BUS26$14 456
.node_map BUS4$3 93
.node_map BUS45$13 759
.node_map BUS40$10 676
.node_map BUS37$5 623
.node_map BUS29$2 492
.node_map BUS26$15 457
.node_map BUS4$4 94
.node_map BUS45$14 760
.node_map BUS40$11 677
.node_map BUS37$6 624
.node_map BUS29$3 493
.node_map BUS4$5 95
.node_map BUS45$15 761
.node_map BUS40$12 678
.node_map BUS37$7 625
.node_map BUS29$4 494
.node_map BUS4$6 96
.node_map RPORB 766
.node_map BUS40$13 679
.node_map BUS38$0 634
.node_map BUS37$8 626
.node_map BUS29$5 495
.node_map BUS4$7 97
.node_map BUS40$14 680
.node_map BUS38$1 635
.node_map BUS37$9 627
.node_map BUS29$6 496
.node_map BUS5$0 106
.node_map BUS4$8 98
.node_map BUS43$10 724
.node_map BUS40$15 681
.node_map BUS38$2 636
.node_map BUS29$7 497
.node_map BUS5$1 107
.node_map BUS4$9 99
.node_map BUS43$11 725
.node_map BUS38$3 637
.node_map BUS29$8 498
.node_map BUS5$2 108
.node_map BUS43$12 726
.node_map BUS38$4 638
.node_map BUS29$9 499
.node_map BUS5$3 109
.node_map BUS43$13 727
.node_map BUS38$5 639
.node_map BUS15$10 276
.node_map BUS5$4 110
.node_map BUS43$14 728
.node_map BUS38$6 640
.node_map BUS15$11 277
.node_map BUS5$5 111
.node_map BUS43$15 729
.node_map BUS38$7 641
.node_map BUS15$12 278
.node_map BUS5$6 112
.node_map BUS39$0 650
.node_map BUS38$8 642
.node_map BUS15$13 279
.node_map BUS10$10 196
.node_map BUS5$7 113
.node_map BUS39$1 651
.node_map BUS38$9 643
.node_map BUS15$14 280
.node_map BUS10$11 197
.node_map BUS6$0 122
.node_map BUS5$8 114
.node_map BUS39$2 652
.node_map BUS18$10 324
.node_map BUS15$15 281
.node_map BUS10$12 198
.node_map BUS6$1 123
.node_map BUS5$9 115
.node_map BUS39$3 653
.node_map BUS18$11 325
.node_map BUS10$13 199
.node_map BUS10$0 186
.node_map BUS6$2 124
.node_map BUS39$4 654
.node_map BUS18$12 326
.node_map BUS10$14 200
.node_map BUS10$1 187
.node_map BUS6$3 125
.node_map BUS39$5 655
.node_map BUS18$13 327
.node_map BUS13$10 244
.node_map BUS10$15 201
.node_map BUS10$2 188
.node_map BUS6$4 126
.node_map BUS39$6 656
.node_map BUS18$14 328
.node_map BUS13$11 245
.node_map BUS10$3 189
.node_map BUS6$5 127
.node_map BUS39$7 657
.node_map BUS32$10 548
.node_map BUS18$15 329
.node_map BUS13$12 246
.node_map BUS10$4 190
.node_map BUS6$6 128
.node_map BUS40$0 666
.node_map BUS39$8 658
.node_map BUS32$11 549
.node_map BUS13$13 247
.node_map BUS10$5 191
.node_map BUS6$7 129
.node_map BUS40$1 667
.node_map BUS39$9 659
.node_map BUS32$12 550
.node_map BUS13$14 248
.node_map BUS10$6 192
.node_map BUS7$0 138
.node_map BUS6$8 130
.node_map BUS40$2 668
.node_map BUS32$13 551
.node_map BUS16$10 292
.node_map BUS13$15 249
.node_map BUS10$7 193
.node_map BUS7$1 139
.node_map BUS6$9 131
.node_map BUS40$3 669
.node_map BUS32$14 552
.node_map BUS16$11 293
.node_map BUS11$0 202
.node_map BUS10$8 194
.node_map BUS7$2 140
.node_map BUS40$4 670
.node_map BUS35$10 596
.node_map BUS32$15 553
.node_map BUS16$12 294
.node_map BUS11$1 203
.node_map BUS10$9 195
.node_map BUS7$3 141
.node_map BUS40$5 671
.node_map BUS35$11 597
.node_map BUS16$13 295
.node_map BUS11$10 212
.node_map BUS11$2 204
.node_map BUS7$4 142
.node_map CLK 763
.node_map BUS40$6 672
.node_map BUS35$12 598
.node_map BUS16$14 296
.node_map BUS11$11 213
.node_map BUS11$3 205
.node_map BUS7$5 143
.node_map BUS40$7 673
.node_map BUS35$13 599
.node_map BUS30$10 516
.node_map BUS19$10 340
.node_map BUS16$15 297
.node_map BUS11$12 214
.node_map BUS11$4 206
.node_map BUS7$6 144
.node_map BUS41$0 682
.node_map BUS40$8 674
.node_map BUS35$14 600
.node_map BUS30$11 517
.node_map BUS20$0 346
.node_map BUS19$11 341
.node_map BUS11$13 215
.node_map BUS11$5 207
.node_map BUS7$7 145
.node_map BUS41$1 683
.node_map BUS40$9 675
.node_map BUS38$10 644
.node_map BUS35$15 601
.node_map BUS30$12 518
.node_map BUS20$1 347
.node_map BUS19$12 342
.node_map BUS11$14 216
.node_map BUS11$6 208
.node_map BUS8$0 154
.node_map BUS7$8 146
.node_map BUS41$2 684
.node_map BUS38$11 645
.node_map BUS30$13 519
.node_map BUS20$2 348
.node_map BUS19$13 343
.node_map BUS14$10 260
.node_map BUS11$15 217
.node_map BUS11$7 209
.node_map BUS8$1 155
.node_map BUS7$9 147
.node_map BUS41$3 685
.node_map BUS38$12 646
.node_map BUS30$14 520
.node_map BUS20$3 349
.node_map BUS19$14 344
.node_map BUS14$11 261
.node_map BUS12$0 218
.node_map BUS11$8 210
.node_map BUS8$2 156
.node_map BUS41$4 686
.node_map BUS38$13 647
.node_map BUS33$10 564
.node_map BUS30$15 521
.node_map BUS20$4 350
.node_map BUS19$15 345
.node_map BUS14$12 262
.node_map BUS12$1 219
.node_map BUS11$9 211
.node_map BUS8$3 157
.node_map BUS41$5 687
.node_map BUS38$14 648
.node_map BUS33$11 565
.node_map BUS20$5 351
.node_map BUS14$13 263
.node_map BUS12$2 220
.node_map BUS8$4 158
.node_map BUS41$6 688
.node_map BUS38$15 649
.node_map BUS33$12 566
.node_map BUS20$6 352
.node_map BUS14$14 264
.node_map BUS12$3 221
.node_map BUS8$5 159
.node_map BUS41$7 689
.node_map BUS33$13 567
.node_map BUS20$7 353
.node_map BUS17$10 308
.node_map BUS14$15 265
.node_map BUS12$4 222
.node_map BUS8$6 160
.node_map BUS42$0 698
.node_map BUS41$8 690
.node_map BUS33$14 568
.node_map BUS21$0 362
.node_map BUS20$8 354
.node_map BUS17$11 309
.node_map BUS12$5 223
.node_map BUS8$7 161
.node_map BUS42$1 699
.node_map BUS41$9 691
.node_map BUS36$10 612
.node_map BUS33$15 569
.node_map BUS21$1 363
.node_map BUS20$9 355
.node_map BUS17$12 310
.node_map BUS12$6 224
.node_map BUS9$0 170
.node_map BUS8$8 162
.node_map BUS42$2 700
.node_map BUS36$11 613
.node_map BUS21$2 364
.node_map BUS17$13 311
.node_map BUS12$10 228
.node_map BUS12$7 225
.node_map BUS9$1 171
.node_map BUS8$9 163
.node_map BUS42$3 701
.node_map BUS36$12 614
.node_map BUS21$3 365
.node_map BUS17$14 312
.node_map BUS13$0 234
.node_map BUS12$11 229
.node_map BUS12$8 226
.node_map BUS9$2 172
.node_map BUS42$4 702
.node_map BUS36$13 615
.node_map BUS31$10 532
.node_map BUS21$4 366
.node_map BUS17$15 313
.node_map BUS13$1 235
.node_map BUS12$12 230
.node_map BUS12$9 227
.node_map BUS9$3 173
.node_map BUS42$5 703
.node_map BUS36$14 616
.node_map BUS31$11 533
.node_map BUS30$0 506
.node_map BUS21$5 367
.node_map BUS13$2 236
.node_map BUS12$13 231
.node_map BUS9$4 174
.node_map BUS42$6 704
.node_map BUS39$10 660
.node_map BUS36$15 617
.node_map BUS31$12 534
.node_map BUS30$1 507
.node_map BUS21$6 368
.node_map BUS13$3 237
.node_map BUS12$14 232
.node_map BUS9$5 175
.node_map BUS42$7 705
.node_map BUS39$11 661
.node_map BUS31$13 535
.node_map BUS30$2 508
.node_map BUS21$7 369
.node_map BUS13$4 238
.node_map BUS12$15 233
.node_map BUS9$6 176
.node_map BUS43$0 714
.node_map BUS42$8 706
.node_map BUS39$12 662
.node_map BUS31$14 536
.node_map BUS30$3 509
.node_map BUS22$0 378
.node_map BUS21$8 370
.node_map BUS13$5 239
.node_map BUS9$7 177
.node_map BUS43$1 715
.node_map BUS42$9 707
.node_map BUS39$13 663
.node_map BUS34$10 580
.node_map BUS31$15 537
.node_map BUS30$4 510
.node_map BUS22$1 379
.node_map BUS21$9 371
.node_map BUS13$6 240
.node_map BUS9$8 178
.node_map BUS43$2 716
.node_map BUS39$14 664
.node_map BUS34$11 581
.node_map BUS30$5 511
.node_map BUS22$2 380
.node_map BUS13$7 241
.node_map BUS9$9 179
.node_map BUS43$3 717
.node_map BUS39$15 665
.node_map BUS34$12 582
.node_map BUS30$6 512
.node_map BUS22$3 381
.node_map BUS14$0 250
.node_map BUS13$8 242
.node_map BUS43$4 718
.node_map BUS34$13 583
.node_map BUS30$7 513
.node_map BUS22$4 382
.node_map BUS14$1 251
.node_map BUS13$9 243
.node_map BUS43$5 719
.node_map BUS34$14 584
.node_map BUS31$0 522
.node_map BUS30$8 514
.node_map BUS22$5 383
.node_map BUS14$2 252
.node_map IN 762
.node_map BUS43$6 720
.node_map BUS37$10 628
.node_map BUS34$15 585
.node_map BUS31$1 523
.node_map BUS30$9 515
.node_map BUS22$6 384
.node_map BUS14$3 253
.node_map BUS43$7 721
.node_map BUS37$11 629
.node_map BUS31$2 524
.node_map BUS22$7 385
.node_map BUS14$4 254
.node_map BUS44$0 730
.node_map BUS43$8 722
.node_map BUS37$12 630
.node_map BUS31$3 525
.node_map BUS23$0 394
.node_map BUS22$8 386
.node_map BUS14$5 255
.node_map BUS44$1 731
.node_map BUS43$9 723
.node_map BUS37$13 631
.node_map BUS31$4 526
.node_map BUS23$1 395
.node_map BUS22$9 387
.node_map BUS14$6 256
.node_map BUS44$2 732
.node_map BUS37$14 632
.node_map BUS31$5 527
.node_map BUS23$2 396
.node_map BUS14$7 257
.node_map BUS44$3 733
.node_map BUS37$15 633
.node_map BUS31$6 528
.node_map BUS23$3 397
.node_map BUS15$0 266
.node_map BUS14$8 258
.node_map BUS44$4 734
.node_map BUS31$7 529
.node_map BUS23$4 398
.node_map BUS15$1 267
.node_map BUS14$9 259
.node_map BUS44$5 735
.node_map BUS32$0 538
.node_map BUS31$8 530
.node_map BUS23$5 399
.node_map BUS15$2 268
.node_map BUS44$6 736
.node_map BUS32$1 539
.node_map BUS31$9 531
.node_map BUS23$6 400
.node_map BUS15$3 269
X$dff1 39 765 40 41 766 dff vars: dff_edge='rise' dff_outputs='both' dff_bits=1 dff_vmax=6
X$dff10 42 43 44 45 46 47 48 49 50 51 52 53 54 55 56 57 765 58 59 60 61 62 63 64 65 66 67 68 69 70 71 72 73 74 75 76 77 78 79 80 81 82 83 84 85 86 87 88 89 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=9 dff_vmax=6
X$dff11 218 219 220 221 222 223 224 225 226 227 228 229 230 231 232 233 765 234 235 236 237 238 239 240 241 242 243 244 245 246 247 248 249 266 267 268 269 270 271 272 273 274 275 276 277 278 279 280 281 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=11 dff_vmax=6
X$dff12 506 507 508 509 510 511 512 513 514 515 516 517 518 519 520 521 765 522 523 524 525 526 527 528 529 530 531 532 533 534 535 536 537 554 555 556 557 558 559 560 561 562 563 564 565 566 567 568 569 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=14 dff_vmax=6
X$dff13 410 411 412 413 414 415 416 417 418 419 420 421 422 423 424 425 765 426 427 428 429 430 431 432 433 434 435 436 437 438 439 440 441 458 459 460 461 462 463 464 465 466 467 468 469 470 471 472 473 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=13 dff_vmax=6
X$dff14 122 123 124 125 126 127 128 129 130 131 132 133 134 135 136 137 765 138 139 140 141 142 143 144 145 146 147 148 149 150 151 152 153 170 171 172 173 174 175 176 177 178 179 180 181 182 183 184 185 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=10 dff_vmax=6
X$dff15 314 315 316 317 318 319 320 321 322 323 324 325 326 327 328 329 765 330 331 332 333 334 335 336 337 338 339 340 341 342 343 344 345 362 363 364 365 366 367 368 369 370 371 372 373 374 375 376 377 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=12 dff_vmax=6
X$dff16 698 699 700 701 702 703 704 705 706 707 708 709 710 711 712 713 765 714 715 716 717 718 719 720 721 722 723 724 725 726 727 728 729 746 747 748 749 750 751 752 753 754 755 756 757 758 759 760 761 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=16 dff_vmax=6
X$dff2 90 91 92 93 94 95 96 97 98 99 100 101 102 103 104 105 765 106 107 108 109 110 111 112 113 114 115 116 117 118 119 120 121 154 155 156 157 158 159 160 161 162 163 164 165 166 167 168 169 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=2 dff_vmax=6
X$dff3 186 187 188 189 190 191 192 193 194 195 196 197 198 199 200 201 765 202 203 204 205 206 207 208 209 210 211 212 213 214 215 216 217 250 251 252 253 254 255 256 257 258 259 260 261 262 263 264 265 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=3 dff_vmax=6
X$dff4 282 283 284 285 286 287 288 289 290 291 292 293 294 295 296 297 765 298 299 300 301 302 303 304 305 306 307 308 309 310 311 312 313 346 347 348 349 350 351 352 353 354 355 356 357 358 359 360 361 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=4 dff_vmax=6
X$dff5 378 379 380 381 382 383 384 385 386 387 388 389 390 391 392 393 765 394 395 396 397 398 399 400 401 402 403 404 405 406 407 408 409 442 443 444 445 446 447 448 449 450 451 452 453 454 455 456 457 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=5 dff_vmax=6
X$dff6 474 475 476 477 478 479 480 481 482 483 484 485 486 487 488 489 765 490 491 492 493 494 495 496 497 498 499 500 501 502 503 504 505 538 539 540 541 542 543 544 545 546 547 548 549 550 551 552 553 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=6 dff_vmax=6
X$dff7 570 571 572 573 574 575 576 577 578 579 580 581 582 583 584 585 765 586 587 588 589 590 591 592 593 594 595 596 597 598 599 600 601 634 635 636 637 638 639 640 641 642 643 644 645 646 647 648 649 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=7 dff_vmax=6
X$dff8 666 667 668 669 670 671 672 673 674 675 676 677 678 679 680 681 765 682 683 684 685 686 687 688 689 690 691 692 693 694 695 696 697 730 731 732 733 734 735 736 737 738 739 740 741 742 743 744 745 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=8 dff_vmax=6
X$dff9 602 603 604 605 606 607 608 609 610 611 612 613 614 615 616 617 765 618 619 620 621 622 623 624 625 626 627 628 629 630 631 632 633 650 651 652 653 654 655 656 657 658 659 660 661 662 663 664 665 766 dffb vars: dff_edge='rise' dff_outputs='both' dff_bits=15 dff_vmax=6
X$pinprobe10 763 pinprobe vars: pinprobe_description='CLK' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe13 764 pinprobe vars: pinprobe_description='PORB' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe9 762 pinprobe vars: pinprobe_description='Input' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
.ends DFFwidth

** From Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\FORCE_DFFwidth.sxcmp


.end
